US07741479B2
Preparation of 4-(aminomethyl)naphthalen-1-amine
To a vial containing 4-aminonaphthalene-1-carbonitrile (0.59 mmol) was added BH3.THF (1M solution (1.2 mmol). The vial was capped and stirred at 70° C. for 19.5 hours. The reaction was cooled down to room temperature and quenched by drop wise addition of methanol (2 mL), stirred at room temperature for 30 minutes, filtered and stirred with Dowex 50WX2-200 resin (1 g) for 26.5 hours. The resin was filtered, washed with methanol (20 mL) and 10% aqueous ammonia (50 mL). The solvent was removed under vacuum. The material was used without any further purification in the next step.

reactant | 4-aminonaphthalene-1-carbonitrile | 0.59 mmol | NC1=CC=C(C2=CC=CC=C12)C#N | C11H8N2
reactant | BH3.THF | B.C1CCOC1
product | 4-(aminomethyl)naphthalen-1-amine | NCC1=CC=C(C2=CC=CC=C12)N | C11H12N2
